US06204260B1
(4(S)-phenyloxazolidin-2-on-3-yl)acetyl chloride
To a solution of 1.31 gm (5.93 mMol) (4(S)-phenyloxazolidin-2-on-3-yl)acetic acid (Evans, U.S. Pat. No. 4,665,171) in 200 mL dichloromethane was added 0.67 mL (7.71 mMol) oxalyl chloride. To this solution was then added 0.5 mL anhydrous dimethylformamide which resulted in vigorous gas evolution. After 45 minutes all gas evolution had ceased and the reaction mixture was concentrated under reduced pressure. The title compound, recovered as an off-white solid, was dried at 0.5 mm Hg for 10 minutes before use in subsequent reactions.

reactant | (4(S)-phenyloxazolidin-2-on-3-yl)acetic acid | 5.93 mMol, 1.31 gm | C1(=CC=CC=C1)[C@@H]1N(C(OC1)=O)CC(=O)O | C11H11NO4
reactant | oxalyl chloride | 7.71 mMol, 0.67 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | (4(S)-phenyloxazolidin-2-on-3-yl)acetyl chloride | C1(=CC=CC=C1)[C@@H]1N(C(OC1)=O)CC(=O)Cl | C11H10ClNO3
